US07790724B2
a) 2-(4-Amino-3-bromo-phenyl)-ethanol
To a solution of 2-(4-amino-phenyl)-ethanol (5.10 g, 37.2 mmol) in 37 mL of DMF was added NBS (6.60 g, 37.1 mmol) and the mixture stirred overnight at RT. The reaction was diluted with 100 mL of water and extracted with EtOAc (3×100 mL). The organic layer was washed with brine (200 mL) and dried over Na2SO4. The title compound was purified by silica gel flash chromatography eluting with 50% EtOAc/hexanes to give 5.10 g (64%) of a white solid. Mass spectrum (ESI, m/z): Calcd. for C8H10BrNO, 216.0 (M+H), found 216.1.

reactant | 2-(4-amino-phenyl)-ethanol | 37.2 mmol, 5.10 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | NBS | 37.1 mmol, 6.60 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 37 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-(4-Amino-3-bromo-phenyl)-ethanol | 5.10 g, 64% | NC1=C(C=C(C=C1)CCO)Br | C8H10BrNO
